US07935688B2
Synthesis of [5-(4-{1-ethyl-1-[4-(1-hydroxy-cycloheptylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid
A 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (1.0 mL, 1.0 mmol) was added to the mixture containing [5-(4-{1-ethyl-1-[4-(1-hydroxy-cycloheptylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester (32.0 mg), and the mixture was stirred at room temperature for 15 minutes. The mixture was further stirred with microwave heating at 100° C. for five minutes. A sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure. The residue was purified by high performance liquid chromatography (Shiseido CAPCELL PAK C18 MGII, 20 mm I.D.×50 mm, methanol:20 mM ammonium acetate solution=55:45 to 100:0, mL/min). A sodium bicarbonate solution was added to the eluate, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure to give the target compound as a colorless oil (10.1 mg, 22% in two steps).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 1.0 mmol, 1.0 mL | O1CCCC1 | C4H8O
reactant | [5-(4-{1-ethyl-1-[4-(1-hydroxy-cycloheptylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | 32.0 mg | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCCCC1)O)C)CC)C)=O | C36H43NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [5-(4-{1-ethyl-1-[4-(1-hydroxy-cycloheptylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid | 10.1 mg, 22% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCCCC1)O)C)C1=CC(=C(C=C1)C=1C=C(C=NC1)CC(=O)O)C | C35H41NO3
